* C:\Users\Nick\Documents\GitHub\Micro-DMM\LTSpice\Voltmeter W Continuity.asc
V1 N011 0 5
R1 N006 N008 0.5Meg
R2 N007 N009 0.5Meg
R3 N010 N009 22.0K
R4 0 N009 10Meg
XU1 N008 0 ADR5041
V2 N007 N006 SINE(0 2.5 5)
R5 N008 N011 4.7K
D1 N009 N011 1N5817
D2 0 N009 1N5817
R6 N005 N004 1K
M1 N008 N012 N010 N010 IRFZ44N
V3 N012 0 PULSE(0 9 0.5 0 0 0.5 1)
R7 0 N012 1k
R8 0 N008 10Meg
R9 N009 N008 1Meg
R10 N003 N002 60
V4 N002 N001 5
R11 NC_01 N002 60
D3 NC_02 NC_03 D
.model D D
.lib C:\Users\Nick\AppData\Local\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Nick\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 1
* (This simulates a MOSFET driver\ncontrolled by an GPIO)
* (This simulates ADC \nconnection 2/2)
* (This simulates ADC \nconnection 1/2)
* Probe 1
* Probe 2
.lib ADR5041.sub
.backanno
.end
